US06258829B1
Ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide
In an atmosphere of argon, ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (13.50 g, 57.9 mmol) was dissolved in methylene chloride (300.0 ml) to which was subsequently added metachloroperbenzoic acid (87.9%, 14.79 g, 75.3 mmol) in small portions at 0° C., and the resulting mixture was stirred at the same temperature for 2 hours and then at room temperature for 10 hours. The reaction solution was mixed with saturated sodium bicarbonate aqueous solution at 0° C. and extracted with methylene chloride, and the thus obtained organic layer was washed with saturated sodium bicarbonate aqueous solution, water and saturated brine in that order and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (ethyl acetate:hexane=5:1—ethyl acetate) to obtain the title compound (10.80 g, 74.9%) as white powder.

reactant | ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 57.9 mmol, 13.50 g | CC1=C(C=C2C(=N1)CCCCC2)C(=O)OCC | C14H19NO2
reactant | metachloroperbenzoic acid | 75.3 mmol, 14.79 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 300.0 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 10.80 g, 74.9% | CC1=C(C=C2C(=[N+]1[O-])CCCCC2)C(=O)OCC | C14H19NO3
